US04066648
A mixture of 30 g of 3-methoxyphenethyl alcohol, 30 g of chloroacetaldehyde diethyl acetal and 50 ml of concentrated hydrochloric acid was heated at 60°-80° C for 30 minutes, and, after cooling, water was added to the reaction mixture. The resultant oil was extracted into ethyl acetate, rinsed with water and dried. By this procedure was obtained 4.0 g of 1-chloromethyl-6-methoxyisochroman as an oil.

reactant | 3-methoxyphenethyl alcohol | 30 g | COC=1C=C(CCO)C=CC1 | C9H12O2
reactant | chloroacetaldehyde diethyl acetal | 30 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | O | H2O
product | 1-chloromethyl-6-methoxyisochroman | 4.0 g | ClCC1OCCC2=CC(=CC=C12)OC | C11H13ClO2
